US06982348B2
1) 6,7-dihydro-5H-benzo[a]cyclohepten-1-ylmethanol
To a solution of tert-butyl(6,7-dihydro-5H-benzo[a]cyclohepten-1-ylmethoxy)dimethylsilane (see Tetrahedron, 53, 15969-15982 (1990))(1.079 g, 3.740 mmol) in tetrahydrofuran (30 ml) was added a 1.0 M solution (3.74 ml, 3.74 mmol) of tetrabutylammonium fluoride in tetrahydrofuran, and the mixture was stirred at room temperature for 15 min. The reaction solution was concentrated and the obtained crude product was purified by silica gel column chromatography (hexane/ethyl acetate=6/1−1/1) to give the objective substance.

reactant | tert-butyl(6,7-dihydro-5H-benzo[a]cyclohepten-1-ylmethoxy)dimethylsilane | 3.740 mmol, 1.079 g | C(C)(C)(C)[Si](C)(C)OCC1=CC=CC2=C1C=CCCC2 | C18H28OSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 6,7-dihydro-5H-benzo[a]cyclohepten-1-ylmethanol | C1(=CC=CC2=C1C=CCCC2)CO | C12H14O
